US05506256
A) (2S)-1-(t-Butoxycarbonyl)-2-[1-hydroxy-2-(4-nitrophenylthio)-ethyl]pyrrolidine
4-Nitrothiophenol (1.21 g) and triethylamine (0.91 ml) were added to (2S)-1-(t-butoxycarbonyl)-2-(1,2-epoxyethyl)-pyrrolidine (1.39 g) as obtained in Example 1-A) in methanol (50 ml), and the mixture was stirred for 2 hours under reflux. The reaction mixture was concentrated and the residue was purified by silica gel column chromatography (eluate : hexane-ethyl acetate) to give 1.85 g of the title compound. B) (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2-(4-nitrophenylthio)ethyl]pyrrolidine

reactant | 4-Nitrothiophenol | 1.21 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | triethylamine | 0.91 ml | C(C)N(CC)CC | C6H15N
reactant | (2S)-1-(t-butoxycarbonyl)-2-(1,2-epoxyethyl)-pyrrolidine | 1.39 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C1CO1 | C11H19NO3
solvent | methanol | 50 ml | CO | CH4O
product | (2S)-1-(t-Butoxycarbonyl)-2-[1-hydroxy-2-(4-nitrophenylthio)-ethyl]pyrrolidine | 1.85 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(CSC1=CC=C(C=C1)[N+](=O)[O-])O | C17H24N2O5S
